US08076345B2
E) 3-amino-3-(6-(trifluoromethyl)pyridin-3-yl)propan-1-ol
A mixture of 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propan-1-ol (7.29 g, 29.6 mmol), ethyl acetate (320 mL), and 10% Pd—C (3.2 g) was stirred under H2 (1 atm) overnight. The catalyst was filtered off and the filtrate was concentrated in vacuo to yield the title product.

reactant | 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propan-1-ol | 29.6 mmol, 7.29 g | N(=[N+]=[N-])C(CCO)C=1C=NC(=CC1)C(F)(F)F | C9H9F3N4O
catalyst | Pd—C | 3.2 g | [Pd] | Pd
solvent | ethyl acetate | 320 mL | C(C)(=O)OCC | C4H8O2
product | 3-amino-3-(6-(trifluoromethyl)pyridin-3-yl)propan-1-ol | NC(CCO)C=1C=NC(=CC1)C(F)(F)F | C9H11F3N2O
